data/mechanism_extracts/Science/10.1126_science.abf2974.json
{"doi": "10.1126_science.abf2974", "journal": "Science", "is_review": false, "rxn_class_summary": "Electrochemical halogen-shuttle (e-shuttle) reaction that transfers Br2 or Cl2 from vicinal dihaloalkane donors (e.g., 1,2-dibromoethane, polychloroalkanes including Lindane) to alkene acceptors to give 1,2-dihalogenated products with extrusion of ethylene.", "mechanism_family": ["paired_electrolysis", "mediator_anodic", "cation_initiated"], "electrochemical_role": "Paired electrolysis: cathodic 2e- reduction of the vicinal dihaloalkane donor cleaves two C-X bonds releasing 2 X- and ethylene; anodic 2e- oxidation regenerates X+ (as bromonium or, for Cl2, as Mn(III)-Cl from a Mn(II) mediator) which halogenates the alkene acceptor.", "key_intermediates": [{"name": "halide anion (Br- or Cl-)", "smiles": "[Br-]", "role": "transient"}, {"name": "ethylene (extruded from donor)", "smiles": "C=C", "role": "transient"}, {"name": "bromonium ion / Br+ equivalent on alkene", "smiles": null, "role": "reactive"}, {"name": "Mn(II)-Cl (resting Cl2 shuttle mediator)", "smiles": null, "role": "resting_state"}, {"name": "Mn(III)-Cl (oxidized Cl-transfer agent)", "smiles": null, "role": "reactive"}, {"name": "1,2-dihaloalkane product", "smiles": null, "role": "reactive"}], "electron_flow": "Cathode delivers 2 e- to the vicinal dihaloalkane donor, cleaving two C-X bonds to release 2 X- and ethylene; the X- is oxidized at the anode (directly for Br-, or via a Mn(II)/Mn(III) mediator for Cl-) to an X+ equivalent that adds across the alkene acceptor, with a second X- closing the addition to give the 1,2-dihalide product.", "rate_determining_step": "Second cathodic electron transfer to the dihaloalkane donor (irreversible CV wave at ca. -2.7 V vs Fc, coupled to extrusion of ethylene + bromide)", "probe_reagents": [{"name": "1,2-dibromoethane (donor probe)", "smiles": "BrCCBr", "purpose": "intermediate_trap", "observation": "Acts as Br2 donor; no HBr elimination products observed, supporting C-Br homolytic/2e- cleavage with ethylene extrusion rather than E2."}, {"name": "2,3-dibromobutane (donor probe)", "smiles": "CC(Br)C(Br)C", "purpose": "intermediate_trap", "observation": "Delivers Br2 to alkene acceptor; absence of HX elimination products confirms shuttle (not elimination) pathway."}, {"name": "1,1,1,2-tetrachloroethane", "smiles": "ClCC(Cl)(Cl)Cl", "purpose": "intermediate_trap", "observation": "Functions as Cl2 donor without HX elimination."}, {"name": "1,2-dichloroethane (DCE)", "smiles": "ClCCCl", "purpose": "intermediate_trap", "observation": "Cl2 donor in Mn-mediated e-shuttle; absence of HCl elimination supports proposed mechanism."}, {"name": "Lindane (γ-HCH)", "smiles": "C1(Cl)C(Cl)C(Cl)C(Cl)C(Cl)C1Cl", "purpose": "intermediate_trap", "observation": "Serves as Cl2 donor; benzene confirmed as co-product by crude NMR and GC, consistent with sequential dechlorination/extrusion."}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Br2 shuttle proceeds without a transition-metal mediator (direct anodic oxidation of Br- to Br+/bromonium). Cl2 shuttle requires a Mn(II)/Mn(III) redox mediator because direct anodic oxidation of Cl- is too high in potential. The irreversibility of the second cathodic reduction is attributed to fast chemical follow-up (loss of ethylene + bromide), and N2 sparging removes ethylene to prevent reverse reaction. A representative intramolecular Br2 transfer experiment supports the proposed two-electron shuttle picture; HX elimination pathway was explicitly ruled out across multiple donors."}
